US09029391B2
3-((2S)-5,6-dimethoxy-5,6-dimethyl-1,4-dioxan-2-yl)-4-(8-fluoro-5-methylchroman-6-yl)isoquinolin-1(2H)-one
An ice cooled suspension of 2-((8-fluoro-5-methylchroman-6-yl)methyl)-N-methylbenzamide (300 mg, 0.957 mmol) in THF (5 mL) was treated with 2.5M nBuLi in hexanes (804 μl, 2.010 mmol). Upon addition of the n-BuLi, the reaction became homogeneous and dark red in color. After 10 min, a solution of (2S)-5,6-dimethoxy-5,6-dimethyl-1,4-dioxane-2-carbonitrile (289 mg, 1.436 mmol) in THF (0.5 mL) was added and the colorless solution was maintained at 0° C. for 5 min. The reaction was quenched with sat. aq. NH4Cl and extracted with EtOAc. The combined organics were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by ISCO (0-10% MeOH-DCM) to afford the title compound (408 mg, 0.844 mmol, 88% yield) as a 1:1 mixture of diastereomers as a pale yellow foam. LC/MS (m/z) ES+=484 (M+1). Rt=2.17, 2.20.

reactant | 2-((8-fluoro-5-methylchroman-6-yl)methyl)-N-methylbenzamide | 0.957 mmol, 300 mg | FC=1C=C(C(=C2CCCOC12)C)CC1=C(C(=O)NC)C=CC=C1 | C19H20FNO2
reactant | nBuLi | 2.5M | [Li]CCCC
reactant | (2S)-5,6-dimethoxy-5,6-dimethyl-1,4-dioxane-2-carbonitrile | 1.436 mmol, 289 mg | COC1(OC[C@@H](OC1(C)OC)C#N)C | C9H15NO4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-((2S)-5,6-dimethoxy-5,6-dimethyl-1,4-dioxan-2-yl)-4-(8-fluoro-5-methylchroman-6-yl)isoquinolin-1(2H)-one | 0.844 mmol, 408 mg, 88% yield | COC1(OC[C@@H](OC1(C)OC)C=1NC(C2=CC=CC=C2C1C=1C(=C2CCCOC2=C(C1)F)C)=O)C | C27H30FNO6
